data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
177,194,[CH3:12][C:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:15]([C:16]([CH3:17])=[O:18])[N:14]=[C:13]2[CH3:12],water,298.15,11.85096121935877,-42.3002688508815
2680,2978,[C:1]1#[C:2][C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19][C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:33][CH-:34][N+:35]#[C:36][C:37]([CH3:38])=[O:39]>>[C:1]12=[C:2]([C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19][C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[CH:34]([CH3:33])[N:35]=[C:36]2[C:37]([CH3:38])=[O:39],water,298.15,13.051622020084556,-57.26161985252621
1139,1238,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][O:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][C-:14]([C:15](=[O:16])[O:17][CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:14]([C:15](=[O:16])[O:17][CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:13][C:10]1([C:8]([O:7][CH3:6])=[O:9])[C:11]#[N:12],water,298.15,23.95123184691463,-41.25718549578299
3660,4180,[CH3:9][NH:10][C:11](=[O:12])[N-:13][O+:14]=[N:15][C:16](=[O:17])[O:18][CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[O:14][N:15]1[C:16](=[O:17])[O:18][CH3:19],water,298.15,18.07901866307542,-58.15985955702242
2579,2860,[CH3:16][O:17][C:18](=[O:19])[c-:20]1[c:21](=[O:22])[o:23][c:24]([C:25]#[N:26])[n+:27]1[CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]1([C:18]([O:17][CH3:16])=[O:19])[C:21](=[O:22])[O:23][C:24]2([C:25]#[N:26])[N:27]1[CH3:28],water,298.15,18.856781917586225,-9.67101906305452
2932,3269,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH:9]=[NH+:10][O-:11]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[O:11][NH:10][CH:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,27.17391574886857,-7.029889181311864
2705,3005,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28](=[NH+:29][CH-:30][C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:30]([C:31]([CH3:32])=[O:33])[NH:29][C:28]2([C:26]([O:25][CH3:24])=[O:27])[C:34]([CH3:35])=[O:36],water,298.15,35.62448977049441,-16.035929784854048
326,355,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:13]([C:11]([CH3:10])=[O:12])([C:18]([CH3:19])=[O:20])[NH:14][CH:15]3[C:16]#[N:17],water,298.15,12.624201889773214,-37.95524781661299
1198,1302,[CH3:14][CH:15]=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[CH:15]([CH3:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,15.227471531754476,-65.5473413411826
2595,2876,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH:27]#[N+:28][C-:29]([C:30](=[O:31])[NH:32][CH3:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:27]=[N:28][C:29]2([C:30](=[O:31])[NH:32][CH3:33])[C:34](=[O:35])[NH:36][CH3:37],water,298.15,3.223488770794644,-63.55557304252018
1349,1479,[CH3:13][O:14][C:15](=[O:16])[N-:17][O+:18]=[N:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[O:18][N:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,10.264411505149534,-42.9307088469354
